US06479490B2
To a stirred solution of 3-iodophenol (2.2 g, 10 mmol), N-(2-hydroxyethyl)morpholine (2 eq. 2.4 mL) and Ph3P (2 eq. 5.24 g) in THF (90 mL)at 0° C. was added dropwise a solution of diisopropylazodicarboxylate (2 eq. 3.96 g) in THF (20 mL). The resulting solution was stirred at room temperature overnight and was then quenched with NaHCO3. The product was extracted with EtOAc and the EtOAc layer was washed with NaCl (sat.), dried over sodium sulfate. The crude mixture was then purified on a silica gel column with 25% acetone in hexane to give 3-(2-morpholin-4-ylethyloxy)iodobenzene (2.8 g, 84% yield).

reactant | 3-iodophenol | 10 mmol, 2.2 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | N-(2-hydroxyethyl)morpholine | 2.4 mL, 2 eq | OCCN1CCOCC1 | C6H13NO2
reactant | Ph3P | 5.24 g, 2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropylazodicarboxylate | 3.96 g, 2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2-morpholin-4-ylethyloxy)iodobenzene | 2.8 g, 84% yield | N1(CCOCC1)CCOC=1C=C(C=CC1)I | C12H16INO2
